US07691854B2
2-Cyano-N-(2-methoxyethyl)acetamide
0.5 g (4.42 mmol) Ethyl cyanoacetate and 0.37 g (4.86 mmol) 2-methoxyethylamine are dissolved in 10 ml ethanol and stirred at reflux overnight. After cooling down to room temperature, the solvent is removed in vacuo and the product is crystallised from ethanol/diethylether.

reactant | Ethyl cyanoacetate | 4.42 mmol, 0.5 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-methoxyethylamine | 4.86 mmol, 0.37 g | COCCN | C3H9NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Cyano-N-(2-methoxyethyl)acetamide | C(#N)CC(=O)NCCOC | C6H10N2O2
